US04260612
0.5 g. (2.00 mmoles) of 9-hydroxy-6-methyl-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester is dissolved in 5 ml. of anhydrous ethanol. To the solution 0.3 g. (3.00 mmoles) of aniline is added and the solution is heated under reflux for 3 hours. The reaction mixture is then cooled and the precipitated crystals are filtered and washed with some ethanol. 0.3 g. (46.1%) of 9-(phenyl-amino)-6-methyl-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester is obtained, melting point: 119°-120° C.

reactant | 9-hydroxy-6-methyl-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester | 2.00 mmoles | C(C)OC(=O)C1=CN=C2N(C1=O)C(CC=C2O)C | C12H14N2O4
reactant | aniline | 3.00 mmoles | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | C(C)O | C2H6O
product | 9-(phenyl-amino)-6-methyl-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid ethyl ester | 46.1% | C(C)OC(=O)C1=CN=C2N(C1=O)C(CC=C2NC2=CC=CC=C2)C | C18H19N3O3
